US06914074B2
7-Methoxy-2-naphthyl trifluoromethanesulfonate
To a solution of 7-methoxy-2-naphthol (4.75 g, 27.27 mmol) and pyridine (3.5 mL, 44 mmol) in 200 mL of dichloromethane at 0° C. was added trifluoromethanesulfonic anhydride (10.0 g, 35 mmol). The solution was allowed to slowly warm to room temperature and stirred overnight. The solution was cooled to 0° C. and stirred with ice water to decompose excess anhydride. The mixture was made slightly basic by the addition of saturated sodium bicarbonate solution. The resulting layers were separated and the aqueous layer was extracted with dichloromethane (2×250 mL). The combined organic layers were washed with water, dried over magnesium sulfate, filtered, and evaporation of the solvent yielded a red oil which was purified by silica chromatography (5% ethyl acetate-hexanes) to yield 8.08 g (97%) of the title compound as a clear, colorless oil. 1H NMR (DMSO-d6) δ 3.92 (3H, s), 7.30 (1H, dd, J=2.58 Hz, J=8.93 Hz), 7.42 (1H, dd, J=2.59 Hz, J=8.93 Hz), 7.52 (1H, d, J=2.38 Hz), 7.96 (1H, d, J=9.12 Hz), 8.00 (1H, d, J=2.38 Hz), 8.06 (1H, d, J=8.73 Hz); MS (EI)m/z306(M)+.

reactant | 7-methoxy-2-naphthol | 27.27 mmol, 4.75 g | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | pyridine | 44 mmol, 3.5 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 35 mmol, 10.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 7-Methoxy-2-naphthyl trifluoromethanesulfonate | 8.08 g, 97% | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OC)(F)F | C12H9F3O4S
